US07303592B2
Synthesis of N-(4-amino-phenyl)-pyridine-2,6-diamine
2,6-Diaminopyridine (9.2 mmol, 1.0 g) and 1-fluoro-4-nitrobenzene (9.2 mmol, 1.3 g) were dissolved in 10 mL anhydrous DMF. The solution was stirred at ambient temperature while 95% sodium hydride (18.3 mmol, 440 mg) was added. The solution turned reddish black in 30 min. The reaction mixture was stirred for an additional 20 hours at room temperature. The reaction mixture was poured slowly into 25 mL 10% aqueous NH4Cl solution mixed with ice (25 g). The resulted aqueous solution was extracted with EtOAc (4×30 mL). The combined organic phase was dried over MgSO4 and evaporated to dryness. The residual oil was purified by flash column chromatography on silica gel (EtOAc:Hexane 1:2) to provide N2-(4-nitrophenyl)pyridine-2,6-diamine (1.6 g, 76%), a reddish orange crystal: 1H NMR (500 MHz, CDCl3) δ 8.19 (d, 2H, J=9.0 Hz), 7.51 (d, 2H, J=9.0 Hz), 7.42 (t, 1H, J=8.0 Hz), 6.85 (s, 1H), 6.30 (d, 1H, J=8.0 Hz), 6.16 (d, 1H, J=8.0 Hz), 4.51 (s, 2H); MS m/z (relative intensity) 231 (M+1, 100), 184 (100). N2-(4-nitrophenyl)pyridine-2,6-diamine (2.6 mmol, 0.6 g) and 10% Pd/C (30 mg) were added to a 20 mL test tube equipped with a stir bar and then dry ice (0.5 g, CO2) was added to the mixture just before MeOH (8 mL) was added. The suspension was then put into a pressure vessel under 80 psi H2. The reaction mixture was stirred for 3 hours. The solution turned from yellow to colorless. The reaction mixture was transferred into a 10 mL syringe and filtered through an Acrodisc syringe Filter into a 100 mL round bottom flask containing 37% aqueous HCl (4 mL). The solvent was then evaporated and azeotroped to dryness with toluene and absolute ethanol (3×30 mL of 1:1 mixture). The product was obtained as an off-white powder in quantitative yield: 1H NMR (500 MHz, D2O) δ 7.48 (t, 1H, J=14.0 Hz), 7.25 (m, 4H), 6.13 (d, 1H, J=14.0 Hz), 6.09 (d, 1H, J=14.0 Hz); Ms m/z (relative intensity) 201 (M+1, 100).

reactant | N2-(4-nitrophenyl)pyridine-2,6-diamine | 2.6 mmol, 0.6 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC(=CC=C1)N | C11H10N4O2
reactant | dry ice | 0.5 g | C(=O)=O | CO2
catalyst | Pd/C | 30 mg | [Pd] | Pd
solvent | MeOH | 8 mL | CO | CH4O
product | N-(4-amino-phenyl)-pyridine-2,6-diamine | NC1=CC=C(C=C1)NC1=NC(=CC=C1)N | C11H12N4
